US08735414B2
Part B. Preparation of 6-chloro-N-(1,3-difluoropropan-2-yl)pyridine-3-sulfonamide
2-Chloropyridine-5-sulfonyl chloride (18 g, 85 mmol) was added to a solution of 1,3-difluoro-2-propylamine hydrochloride (11.2 g, 58.1 mmol) in pyridine (25 mL) at 0° C. The reaction mixture was stirred at room temperature for 30 minutes, diluted with ethyl acetate (200 mL) and washed with 3N aq. HCl (3×100 mL). The organic layer was dried over Na2SO4, filtered and concentrated. The residue was triturated with hexane (2×50 mL) and filtered to provide the title compound as an off-white solid (15.7 g, 70%). 1H NMR (500 MHz, CDCl3): δ 8.79 (1H, d, J=2.4 Hz), 8.17 (1H, dd, J=2.6 Hz, 2.5 Hz), 7.49 (1H, d, J=8.2 Hz), 5.25 (1H br s), 4.58 (2H, m), 4.47 (2H, m), 3.77 (1H, m).

reactant | 2-Chloropyridine-5-sulfonyl chloride | 85 mmol, 18 g | ClC1=NC=C(C=C1)S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | 1,3-difluoro-2-propylamine hydrochloride | 58.1 mmol, 11.2 g | Cl.FCC(CF)N
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 6-chloro-N-(1,3-difluoropropan-2-yl)pyridine-3-sulfonamide | 15.7 g, 70% | ClC1=CC=C(C=N1)S(=O)(=O)NC(CF)CF | C8H9ClF2N2O2S
